US08791161B2
N-{2-[(3-aminopropyl)thio]-5-chlorophenyl}-1-benzofuran-2-sulfonamide
Following General Procedure F, G, the title compound was prepared from 2,2′-dithiobis(5-chloroaniline), 1-benzofuran-2-sulfonyl chloride and 3-bromo-propylamine hydrochloride.

reactant | 2,2′-dithiobis(5-chloroaniline) | ClC=1C=CC(=C(N)C1)SSC1=C(N)C=C(C=C1)Cl | C12H10Cl2N2S2
reactant | 1-benzofuran-2-sulfonyl chloride | O1C(=CC2=C1C=CC=C2)S(=O)(=O)Cl | C8H5ClO3S
reactant | 3-bromo-propylamine hydrochloride | Cl.BrCCCN
product | N-{2-[(3-aminopropyl)thio]-5-chlorophenyl}-1-benzofuran-2-sulfonamide | NCCCSC1=C(C=C(C=C1)Cl)NS(=O)(=O)C=1OC2=C(C1)C=CC=C2 | C17H17ClN2O3S2
